US03971647
A solution of 213 g of dodecylformamide (1.0 mole) in 500 ml of anhydrous benzene is added dropwise at 20°-30° to a suspension of 208 g of phosphorus pentachloride (1.0 mole) in 750 ml of anhydrous benezne. After a further 12 hours of stirring at 30°, the reaction mixture is concentrated in vacuo to dryness. The residue is then dissolved in 100 ml of anhydrous benzene, and 202 g of di-isopropylamine (2.0 moles) added dropwise at 40°-50°. The whole is heated for 2 hours at 50°; water and ice are added, and the mixture rendered alkaline with aqueous sodium hydroxide solution. The organic layer is then separated and concentrated by evaporation. The N1,N 1 -diisopropyl-N2 -dodecyl-formamidine obtained as residue boils at 125°-128°C and 0.03 Torr.

reactant | dodecylformamide | 1.0 mole, 213 g | C(CCCCCCCCCCC)NC=O | C13H27NO
reactant | phosphorus pentachloride | 1.0 mole, 208 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | di-isopropylamine | 2.0 moles, 202 g | C(C)(C)NC(C)C | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | N1,N 1 -diisopropyl-N2 -dodecyl-formamidine | C(C)(C)N(C=NCCCCCCCCCCCC)C(C)C | C19H40N2
